US07012089B2
{[2-(4-Fluoro-2-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid
{[2-(4-Fluoro-2-nitro-phenyl)-ethyl]-methylamino}-acetic acid ethyl ester (10.0 g, 0.035 mole) dissolved in concentrated hydrobromic acid (48 wt. % in water, 200 mL) was allowed to stir at 70° C. overnight and then reduced to a small volume in vacuo. The residue oil was taken up in acetonitrile and the solution was evaporated in vacuo. This procedure was repeated until the water was removed and a crystalline residue remained. This material was used in the next step without further purification. 1H NMR (DMSO): 8.00 δ (dd, 1H); 7.65 δ (m, 2H); 4.20 δ (s, 2H); 3.40 δ (large water peak obscure some aliphatic resonances); 3.20 δ (t, 2H); 2.90 δ (s, 3H).

reactant | {[2-(4-Fluoro-2-nitro-phenyl)-ethyl]-methylamino}-acetic acid ethyl ester | 0.035 mole, 10.0 g | C(C)OC(CN(C)CCC1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C13H17FN2O4
solvent | hydrobromic acid | 200 mL | Br | BrH
solvent | acetonitrile | C(C)#N | C2H3N
product | {[2-(4-Fluoro-2-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid | FC1=CC(=C(C=C1)CCN(C)CC(=O)O)[N+](=O)[O-] | C11H13FN2O4
